US07858781B2
4-(Furan-3-ylmethoxy)-1H-indole-2-carboxylic acid {1-[(1S,9aR)-1-(octahydro-quinolizin-1-yl)methyl]-piperidin-4-yl}-amide
This compound is synthesized from 4-(furan-3-ylmethoxy)-1H-indole-2-carboxylic acid piperidin-4-ylamide, 165 (preparation see below) and (1R,9aR)-1-(octahydro-quinolizin-1-yl)-methanol analogously to the method described in example 127.

reactant | 4-(furan-3-ylmethoxy)-1H-indole-2-carboxylic acid piperidin-4-ylamide | N1CCC(CC1)NC(=O)C=1NC2=CC=CC(=C2C1)OCC1=COC=C1 | C19H21N3O3
reactant | (1R,9aR)-1-(octahydro-quinolizin-1-yl)-methanol | [C@H]1(CCCN2CCCC[C@H]12)CO | C10H19NO
product | 4-(Furan-3-ylmethoxy)-1H-indole-2-carboxylic acid {1-[(1S,9aR)-1-(octahydro-quinolizin-1-yl)methyl]-piperidin-4-yl}-amide | [C@H]1(CCCN2CCCC[C@H]12)CN1CCC(CC1)NC(=O)C=1NC2=CC=CC(=C2C1)OCC1=COC=C1 | C29H38N4O3
